US08039514B2
(Step A) Synthesis of methyl 4-bromo-3-fluorobenzoic acid
4-Bromo-3-fluorobenzoic acid (WAKO, 1.0 g) was dissolved in methanol (10 mL), followed by addition of concentrated sulfuric acid (10 drops). The mixture was refluxed for three hours. After cooling to room temperature, water was added and the extraction was carried out with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure to obtain the target compound (618 mg).

reactant | 4-Bromo-3-fluorobenzoic acid | 1.0 g | BrC1=C(C=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | water | O | H2O
reactant | methanol | 10 mL | CO | CH4O
catalyst | sulfuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
product | methyl 4-bromo-3-fluorobenzoic acid | 618 mg | CC1=C(C(=O)O)C=CC(=C1F)Br | C8H6BrFO2
